US08604038B2
A solution of tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(pyridin-3-yl)methyl]-5-[4-(methoxycarbonyl)benzyl]pyrrolidine-1-carboxylate (1.15 g, 2.127 mmol) in DCM (22 mL) was cooled to 0° C. and m-CPBA (0.953 g, 4.25 mmol) was added. The reaction was warmed to room temperature. After 2 hours the reaction was quenched with aqueous sodium bisulfite (20 mL). The reaction was then diluted with EtOAc (150 mL) and washed vigorously with aqueous sodium bisulfite (3×40 mL). The organics were washed with brine (2×40 mL), saturated aqueous NaHCO3 (3×40 mL) and then brine (2×40 mL). The organic layer was dried over Na2SO4, filtered, and concentrated to afford tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(1-oxidopyridin-3-yl)methyl]-5-[4-(methoxycarbonyl)benzyl]pyrrolidine-1-carboxylate (1.18 g, 100%). LC-MS=557.2 (M+1)+.

reactant | tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(pyridin-3-yl)methyl]-5-[4-(methoxycarbonyl)benzyl]pyrrolidine-1-carboxylate | 2.127 mmol, 1.15 g | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@@H]1N([C@@H](CC1)CC1=CC=C(C=C1)C(=O)OC)C(=O)OC(C)(C)C)C=1C=NC=CC1 | C30H44N2O5Si
reactant | m-CPBA | 4.25 mmol, 0.953 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 22 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(1-oxidopyridin-3-yl)methyl]-5-[4-(methoxycarbonyl)benzyl]pyrrolidine-1-carboxylate | 1.18 g, 100% | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@@H]1N([C@@H](CC1)CC1=CC=C(C=C1)C(=O)OC)C(=O)OC(C)(C)C)C=1C=[N+](C=CC1)[O-] | C30H44N2O6Si
